US05166347
Isopropyl N-cyano-4-pyridinecarboximidate (0.50 g, 2.6 mmol) was dissolved in methanol (5 ml), and aniline (0.27 g, 2.9 mmol) dissolved in methanol (5 ml) was added. The mixture was stirred at room temperature for 20 minutes. After the reaction was completed, the reaction solution was concentrated under reduced pressure. The residual concentrate was subjected to chromatography on a silica gel column (WAKO GEL C-200, 40 g). Elution with chloroform-methanol (100:1) gave the object compound, which was further crystallized from methanol-diethyl ether to give N-cyano-N'-phenyl-4-pyridinecarboximidamide (0.32 g, 1.4 mmol, yield: 54%) as colorless needles.

reactant | Isopropyl N-cyano-4-pyridinecarboximidate | 2.6 mmol, 0.50 g | C(#N)N=C(OC(C)C)C1=CC=NC=C1 | C10H11N3O
reactant | aniline | 2.9 mmol, 0.27 g | NC1=CC=CC=C1 | C6H7N
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | N-cyano-N'-phenyl-4-pyridinecarboximidamide | 1.4 mmol, 0.32 g, yield: 54% | C(#N)NC(=NC1=CC=CC=C1)C1=CC=NC=C1 | C13H10N4
